US05292740
105 ml of ammonia were passed into a solution of 7 g of 4,6-dichloro-5-(o-methoxyphenoxy)pyrimidine in 140 ml of ethanol at -78° C. The reaction mixture was stirred for 15 hours at -78° C. and for 50 hours at room temperature and then concentrated. The residue was distributed between ethyl acetate and water and the organic phase worked up. There were obtained 6.45 g of 4-amino-6-chloro-5-(o-methoxyphenoxy)pyrimidine as white crystals.

reactant | ammonia | 105 ml | N | H3N
reactant | 4,6-dichloro-5-(o-methoxyphenoxy)pyrimidine | 7 g | ClC1=NC=NC(=C1OC1=C(C=CC=C1)OC)Cl | C11H8Cl2N2O2
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 4-amino-6-chloro-5-(o-methoxyphenoxy)pyrimidine | 6.45 g | NC1=NC=NC(=C1OC1=C(C=CC=C1)OC)Cl | C11H10ClN3O2
